US07326791B2
(a) 3-dimethoxymethyl-1,4,5,6-tetrahydrocyclopentapyrazole
5.7 g (30.6 mmol) of 2-(2,2-dimethoxyacetyl)cyclopentanone is dissolved in 50 mL of ethanol and after the addition of 6 g (96 mmol) of hydrazine hydrate (80%) refluxed for 2.5 hours. The ethanol is distilled off, the residue is combined with water and extracted with ethyl acetate. The organic extracts are dried and concentrated by evaporation. The crude product is chromatographed on silica gel, eluting with petroleum ether/ethyl acetate 1:2. Yield: 3.1 g (56%).

reactant | 2-(2,2-dimethoxyacetyl)cyclopentanone | 30.6 mmol, 5.7 g | COC(C(=O)C1C(CCC1)=O)OC | C9H14O4
reactant | hydrazine hydrate | 96 mmol, 6 g | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-dimethoxymethyl-1,4,5,6-tetrahydrocyclopentapyrazole | COC(C1=NNC2=C1CCC2)OC | C9H14N2O2
